* Z:\home\richard\code\uni\AUV\Draft1.asc
Q1 N002 N003 N004 0 NPN
Q2 N002 N004 N005 0 NPN
Q3 N002 N005 0 0 NPN
V1 N001 0 PULSE(0 5 0 1n 1n 12.5u 25u)
R1 N003 N001 100k
R2 N001 N002 120
.model NPN NPN
.model PNP PNP
.lib C:\users\richard\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 200u
.backanno
.end
